US07919504B2
tert-Butyl (4R)-4-((S)-((tert-butyl(dimethyl)silyl)oxy)(4-(trifluoromethyl)phenyl)methyl)-1,2,3-oxathiazolidine-3-carboxylate 2-oxide:
To a solution of thionyl chloride (0.74 mL, 10.1 mmol) in MeCN (12 mL) and DCM (12 mL) at −78° C. was added a solution of tert-butyl (1S,2R)-1-(tert-butyldimethylsilyloxy)-3-hydroxy-1-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (1.82 g, 4.05 mmol) in MeCN (20 mL), DCM (20 mL) and THF (4 mL) dropwise via a dropping funnel. After 10 minutes, pyridine (1.82 mL, 22.3 mmol) was added dropwise at −78° C. The mixture was allowed to warm to room temperature and stirred overnight. The solvent was removed in vacuo. The residue was taken up in EtOAc (60 mL), washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography on silica gel (0%-10% EtOAc-hexane) to provide the product as a white solid (1.80 g, 90%).

reactant | thionyl chloride | 10.1 mmol, 0.74 mL | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butyl (1S,2R)-1-(tert-butyldimethylsilyloxy)-3-hydroxy-1-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 4.05 mmol, 1.82 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@H](CO)NC(OC(C)(C)C)=O)C1=CC=C(C=C1)C(F)(F)F | C21H34F3NO4Si
reactant | pyridine | 22.3 mmol, 1.82 mL | N1=CC=CC=C1 | C5H5N
solvent | MeCN | 12 mL | CC#N | C2H3N
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | MeCN | 20 mL | CC#N | C2H3N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-Butyl (4R)-4-((S)-((tert-butyl(dimethyl)silyl)oxy)(4-(trifluoromethyl)phenyl)methyl)-1,2,3-oxathiazolidine-3-carboxylate 2-oxide | 1.80 g, 90% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@H]1N(S(OC1)=O)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C(F)(F)F | C21H32F3NO5SSi
